### PR TITLE
[Merged by Bors] - feat: functoriality of `Measure.comap`

### PR DESCRIPTION
**Pull request by YaelDillies**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Comap.lean [hunk 1]
```diff
@@ -129,6 +130,20 @@ theorem comap_preimage (f : α → β) (μ : Measure β) (hf : Injective f) (hf'
...
   · simp [comap, hf]
 
+@[simp]
+lemma comap_id (μ : Measure β) : comap (fun x ↦ x) μ = μ := by
+  ext s hs
+  rw [comap_apply, image_id']
+  · exact injective_id
+  all_goals simp [*]
+
+lemma comap_comap (hf : Injective f) (hf' : ∀ s, MeasurableSet s → MeasurableSet (f '' s))
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/Comap.lean:140]: Can you case-split on `Injective f`? if `f` is not injective, then nor is `g ∘ f` and so both sides are 0, right?

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Measure/Comap.lean]: Well spotted. I was looking for a generalisation along those lines

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
